US04018802
Preparation of 8-methylsulfonyl-12(S)-hydroxyheptadecanoic acid
8-Methylsulfonyl-12(S)-hydroxy-10-heptadecynoic acid (36.0 g., 0.10 mole) and 5% platinum-on-charcola catalyst (4.0 g.) are placed in a mixture of ethyl acetate (100 ml.) and cyclohexane (200 ml.) and hydrogenated in a Parr apparatus with an initial hydrogen pressure of 45 pounds per square inch. The uptake of the required 0.2 mole of hydrogen is complete in 20 minutes. The catalyst is removed by filtration and the solvents evaporated to leave the product as a residual oil weighing 33.5 g. It is purified by chromatography on silica gel with benzene-dioxane-acetic acid elution. The title compound is obtained as a nearly colorless viscous oil.

reactant | 8-Methylsulfonyl-12(S)-hydroxy-10-heptadecynoic acid | 0.10 mole, 36.0 g | CS(=O)(=O)C(CCCCCCC(=O)O)CC#C[C@H](CCCCC)O | C18H32O5S
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 0.2 mole | [H][H] | H2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | cyclohexane | 200 ml | C1CCCCC1 | C6H12
catalyst | platinum | [Pt] | Pt
product | 8-methylsulfonyl-12(S)-hydroxyheptadecanoic acid | CS(=O)(=O)C(CCCCCCC(=O)O)CCC[C@H](CCCCC)O | C18H36O5S
